US07973039B2
Intermediate A1: 3-(1,3-benzodioxol-5-yl)-2-propynal
To a solution of 3-(1,3-benzodioxol-5-yl)prop-2-yn-1-ol (242 mg, 1.37 mmol, obtained as described in Nugent et al., 1987, J. Am. Chem. Soc., 109, 2788) in anhydrous DCM (12 mL) was added MnO2 (2.70 g, 31.1 mmol) portion wise over 2 h. The resulting mixture was stirred at rt for one additional hour, then filtered on a bed of Celite and the filtrates were evaporated under reduced pressure to give 123 mg (51%) of the title compound as a brown solid. HPLC, Rt: 2.76 min (purity: 98.9%). 1H NMR (CDCl3) δ: 9.37 (s, 1H), 7.18 (m, 1H), 7.00 (m, 1H), 6.82 (d, J=8.3 Hz, 1H), 6.03 (s, 2H).

reactant | 3-(1,3-benzodioxol-5-yl)prop-2-yn-1-ol | 1.37 mmol, 242 mg | O1COC2=C1C=CC(=C2)C#CCO | C10H8O3
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 31.1 mmol, 2.70 g | O=[Mn]=O
product | 3-(1,3-benzodioxol-5-yl)-2-propynal | 123 mg, 51% | O1COC2=C1C=CC(=C2)C#CC=O | C10H6O3
